US04845210
In a similar manner to that of Example 37, (3R,4R)-3-ethyl-4-trimethylsilylethynyl-2-azetidinone (0.18 g) is reacted with mercuric sulfate (0.05 g) and concentrated sulfuric acid (trace). To the reaction mixture is added sodium bicarbonate (0.1 g) and then evaporated under reduced pressure. The residue is extracted with a mixture of ethyl acetate (30 ml) and THF (30 ml), and then evaporated under reduced pressure. The residue is subjected to a column chromatography on silica gel (eluent: 50% ethyl acetate in hexane) to give (3R,4R)-4-acetyl-3-ethyl-2-azetidinone (0.08 g).

reactant | (3R,4R)-3-ethyl-4-trimethylsilylethynyl-2-azetidinone | 0.18 g | C(C)[C@H]1C(N[C@H]1C#C[Si](C)(C)C)=O | C10H17NOSi
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 0.1 g | C([O-])(O)=O.[Na+]
product | (3R,4R)-4-acetyl-3-ethyl-2-azetidinone | 0.08 g | C(C)(=O)[C@H]1[C@H](C(N1)=O)CC | C7H11NO2
